US08278441B2
N-((4aS,7aS)-7a-(5-Amino-2-fluorophenyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-2-yl)benzamide
To a 2 L round bottom flask is added N-((4aS,7aS)-7a-(5-bromo-2-fluorophenyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-2-yl)benzamide (35.0 g, 80.4 mmol), trifluoroacetamide (16.2 g, 143 mmol), copper(I) iodide (2.66 g, 13.7 mmol), sodium iodide (21.3 g, 141 mmol) and potassium carbonate (21.5 g, 153 mmol). The flask is capped with a septum, vacuum and back filled with nitrogen. 1,4-dioxane (731 mL) (previously degassed with vacuum-nitrogen) is added via cannula, and N,N′-dimethyl-, trans (+/−) 1,2-cyclohexanediamine (10.1 g, 70.8 mmol) is added. The mixture is placed in a preheated oil bath at 100° C. and stirred at this temperature for 19 h. The septum is replaced by a reflux condenser and a mixture of methanol (154 mL) and water (154 mL) is added through the condenser. The mixture is stirred at 100° C. for 3.5 h, cooled to 22° C., and concentrated partially under reduced pressure (to 0.6 L volume). Aqueous ammonium hydroxide (25%, 154 mL) is added and the mixture is stirred for 10 min. The mixture is extracted three times with ethyl acetate (3×500 mL) and the solvent is removed under reduced pressure. A residue is obtained that is purified by flash chromatography with a linear gradient of 50% to 75% ethyl acetate in hexane to give the title compound (14.9 g, 47%). ES/MS m/e: 372 (M+1).

reactant | N-((4aS,7aS)-7a-(5-bromo-2-fluorophenyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-2-yl)benzamide | 80.4 mmol, 35.0 g | BrC=1C=CC(=C(C1)[C@@]12N=C(SC[C@@H]1COC2)NC(C2=CC=CC=C2)=O)F | C19H16BrFN2O2S
reactant | trifluoroacetamide | 143 mmol, 16.2 g | FC(C(=O)N)(F)F | C2H2F3NO
reactant | sodium iodide | 141 mmol, 21.3 g | [I-].[Na+]
reactant | potassium carbonate | 153 mmol, 21.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | trans (+/−) 1,2-cyclohexanediamine | 70.8 mmol, 10.1 g | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
catalyst | copper(I) iodide | 13.7 mmol, 2.66 g | [Cu]I
solvent | water | 154 mL | O | H2O
solvent | methanol | 154 mL | CO | CH4O
product | N-((4aS,7aS)-7a-(5-Amino-2-fluorophenyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-2-yl)benzamide | 14.9 g, 47% | NC=1C=CC(=C(C1)[C@@]12N=C(SC[C@@H]1COC2)NC(C2=CC=CC=C2)=O)F | C19H18FN3O2S
